resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.008467
R2 0 n2 1.005206
R3 0 n4 0.992234
R4 n1 n3 0.999349
R5 n1 n5 1.001186
R6 n2 n3 0.989576
R7 n2 n6 1.009951
R8 n3 n7 0.991714
R9 n4 n5 0.997715
R10 n4 n6 0.996663
R11 n5 n7 0.985167
R12 n6 n7 0.109635
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
